US07592334B2
(b) Ethyl (6-bromo-2-nitro-pyridin-3-yloxy)acetate
2-Bromo-5-hydroxy-6-nitropyridine (30 g, 0.14 mole) was suspended in acetone (200 ml), and potassium carbonate (39 g, 0.28 mole) was added, followed by ethyl bromoacetate (15.7 ml, 0.14 mmole). The reaction was heated at reflux for 10 hr, then was cooled to room temperature and diluted with Et2O. The precipitate was removed by suction filtration, and the filtrate was concentrated in vacuo to afford material (38 g, 89%), which was used without further purification; MS (ES) m/z 305.0 (M+H)+.

reactant | 2-Bromo-5-hydroxy-6-nitropyridine | 0.14 mole, 30 g | BrC1=NC(=C(C=C1)O)[N+](=O)[O-] | C5H3BrN2O3
reactant | potassium carbonate | 0.28 mole, 39 g | C([O-])([O-])=O.[K+].[K+]
reactant | Et2O | CCOCC | C4H10O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
catalyst | ethyl bromoacetate | 0.14 mmole, 15.7 ml | BrCC(=O)OCC | C4H7BrO2
product | Ethyl (6-bromo-2-nitro-pyridin-3-yloxy)acetate | 38 g, 89% | BrC1=CC=C(C(=N1)[N+](=O)[O-])OCC(=O)OCC | C9H9BrN2O5
